US07482341B2
Step B]: 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from 2,2-Dimethyl-N-[6-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-propionamide (0.726 g) and 3M aqueous NaOH (5 mL) as a brown liquid (0.4 g). MS (EI): 206.1 (M+).

reactant | 2,2-Dimethyl-N-[6-(2,2,2-trifluoro-ethoxymethyl)-pyridin-2-yl]-propionamide | 0.726 g | CC(C(=O)NC1=NC(=CC=C1)COCC(F)(F)F)(C)C | C13H17F3N2O2
reactant | NaOH | 3M, 5 mL, 0.4 g | [OH-].[Na+]
product | 6-(2,2,2-Trifluoro-ethoxymethyl)-pyridin-2-ylamine | FC(COCC1=CC=CC(=N1)N)(F)F | C8H9F3N2O
